US08258160B2
Synthesis of 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 3, making variations as necessary to replace ethyl 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate with ethyl 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a white solid in 99% yield: MS (ES−) m/z 331.2 (M−1).

reactant | ethyl 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate | C(C1=CC=CC=C1)N1N=NC(=C1)C=1SC(=C(N1)C)C(=O)OCC | C16H16N4O2S
reactant | ethyl 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CCN2N=NC(=C2)C=2SC(=C(N2)C)C(=O)OCC)C=C1 | C17H17FN4O2S
product | 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | 99% yield | FC1=CC=C(CCN2N=NC(=C2)C=2SC(=C(N2)C)C(=O)O)C=C1 | C15H13FN4O2S
